US04338122
Preparation of 5-(2',4'-dichlorophenyl)-4-ketopentanoic acid
A 1-liter 1-neck R.B. flask was charged with 156.61 g (0.50 Mol) of ethyl-5-(2',4'-dichlorophenyl)-5-cyano-4-ketopentanoate, 153 ml of concentrated sulfuric acid, 153 ml of water, and 440 ml of glacial acetic acid. The reaction mixture was stirred and refluxed for 24 hours. The reaction mixture was cooled to room temperature and 300 ml of water added followed by 200 ml of isopropyl ether. The mixture was refluxed for 1/2 hour, cooled in an ice bath, and filtered. The desired acid (104.13 g, 80% yield) was obtained as a viscous dark-colored oil.

reactant | ethyl-5-(2',4'-dichlorophenyl)-5-cyano-4-ketopentanoate | 0.50 Mol, 156.61 g | C(C)OC(CCC(C(C#N)C1=C(C=C(C=C1)Cl)Cl)=O)=O | C14H13Cl2NO3
reactant | sulfuric acid | 153 ml | S(O)(O)(=O)=O | H2O4S
reactant | isopropyl ether | 200 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 300 ml | O | H2O
solvent | acetic acid | 440 ml | C(C)(=O)O | C2H4O2
solvent | water | 153 ml | O | H2O
product | 5-(2',4'-dichlorophenyl)-4-ketopentanoic acid | 104.13 g, 80% yield | ClC1=C(C=CC(=C1)Cl)CC(CCC(=O)O)=O | C11H10Cl2O3
